US06376669B1
5-{[({2-[4-Amino-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl]ethyl}amino)carbonthioyl]amino}-2-(6-hydroxy-3-oxo-3H-xanthen-9-yl)benzoic Acid
A solution of fluorescein-5-isothiocyanate (778 mg, 2.0 mmol) in pyridine (5 mL) was added to a solution of 2-(4-amino-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)ethaneamine (566 mg, 2.0 mmol) in pyridine (5 mL). The reaction mixture was heated at reflux for 30 minutes and then poured into water (50 mL). The resulting orange solid was isolated by filtration, dried under high vacuum and then recrystallized from pyridine to provide 0.76 g of the desired product as an orange solid, m.p. >245°. Analysis by high performance liquid chromatography indicated pure product. Analysis: Calculated for C37H32N6O5S: % C, 66.06; % H, 4.79; % N, 12.49; Found: % C, 63.03; % H, 4.89; % N, 12.59. High resolution mass spectroscopy: TM=673.2233 Da., MM=673.2251 Da.

reactant | fluorescein-5-isothiocyanate | 2.0 mmol, 778 mg | C1=CC2=C(C=C1N=C=S)C(=O)OC23C4=C(C=C(C=C4)O)OC5=C3C=CC(=C5)O | C21H11NO5S
reactant | 2-(4-amino-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)ethaneamine | 2.0 mmol, 566 mg | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCN)CCCC | C16H21N5
reactant | water | 50 mL | O | H2O
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | 5-{[({2-[4-Amino-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl]ethyl}amino)carbonthioyl]amino}-2-(6-hydroxy-3-oxo-3H-xanthen-9-yl)benzoic Acid | 0.76 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCNC(=S)NC=2C=CC(=C(C(=O)O)C2)C=2C1=CC=C(C=C1OC1=CC(C=CC21)=O)O)CCCC | C37H32N6O5S
